US04302586
60.46 g of 4-amino-6-chloro-2-morpholinopyrimidine (described in Chem. Pharm. Bull. 13, 557) are suspended in 190 ml of 1,2-dimethoxyethane and to this suspension are added 35.4 g of sodium methylate. The suspension is subsequently stirred for 22 hours under reflux and then cooled to 20° C. After addition of 180 ml of water the precipitated product is collected by suction and dried in vacuo at 80° C., affording 39.1 g (66% of theory) of 4-amino-6-methoxy-2-morpholinopyrimidine with a melting point of 162° C.-164° C.

reactant | 4-amino-6-chloro-2-morpholinopyrimidine | 60.46 g | NC1=NC(=NC(=C1)Cl)N1CCOCC1 | C8H11ClN4O
reactant | sodium methylate | 35.4 g | C[O-].[Na+]
reactant | water | 180 ml | O | H2O
solvent | 1,2-dimethoxyethane | 190 ml | COCCOC | C4H10O2
product | 4-amino-6-methoxy-2-morpholinopyrimidine | 39.1 g, 66% | NC1=NC(=NC(=C1)OC)N1CCOCC1 | C9H14N4O2
